US07858621B2
Step 2: (2-Butylamino-6-trifluoromethyl-pyridin-3-yl)-propynoic acid methyl ester
A solution of butyl-[3-(2,2-dibromo-vinyl)-6-trifluoromethyl-pyridin-2-yl]-amine (1.02 g, 2.54 mmol) in THF under nitrogen at −78° C. was slowly treated with 2.5 M BuLi in hexane (2.0 mL, 5.00 mmol) and then stirred for 30 min at −78° C. and 30 min at −0° C. The mixture was treated with methyl chloroformate (0.235 mL, 3.05 mmol) at −78° C. and warmed to 0° C. for 1 hr. The mixture was diluted with 1:1 mixture of saturated NaHCO3 and NH4Cl solution and the aqueous layer was extracted with ether (×3). The combined organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The crude residue was purified by chromatography (Hex/EtOAc=10/1) to give the title compound (78 mg, 10%).

reactant | butyl-[3-(2,2-dibromo-vinyl)-6-trifluoromethyl-pyridin-2-yl]-amine | 2.54 mmol, 1.02 g | C(CCC)NC1=NC(=CC=C1C=C(Br)Br)C(F)(F)F | C12H13Br2F3N2
reactant | BuLi | 2.5 M | [Li]CCCC
reactant | hexane | 5.00 mmol, 2.0 mL | CCCCCC | C6H14
reactant | methyl chloroformate | 3.05 mmol, 0.235 mL | ClC(=O)OC | C2H3ClO2
solvent | THF | C1CCOC1 | C4H8O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | NH4Cl | [NH4+].[Cl-]
product | (2-Butylamino-6-trifluoromethyl-pyridin-3-yl)-propynoic acid methyl ester | 78 mg, 10% | COC(C#CC=1C(=NC(=CC1)C(F)(F)F)NCCCC)=O | C14H15F3N2O2
